US07595314B2
[4-(2-Fluoro-4-trifluoromethyl-phenyl)-piperazin-1-yl]-[5-methanesulfonyl-2-(4-methyl-pyrazol-1-yl)-phenyl]-methanone
The title compound was prepared according to the procedure described for example 294 from [4-(2-Fluoro-4-trifluoromethyl-phenyl)-piperazin-1-yl]-(2-iodo-5-methanesulfonyl-phenyl)-methanone (compound CN) and 4-Methyl-1H-pyrazole (30% yield, light brown solid, MS (m/e): 511.2 (M+H, 100%)

reactant | [4-(2-Fluoro-4-trifluoromethyl-phenyl)-piperazin-1-yl]-(2-iodo-5-methanesulfonyl-phenyl)-methanone | FC1=C(C=CC(=C1)C(F)(F)F)N1CCN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)I | C19H17F4IN2O3S
reactant | 4-Methyl-1H-pyrazole | CC=1C=NNC1 | C4H6N2
product | [4-(2-Fluoro-4-trifluoromethyl-phenyl)-piperazin-1-yl]-[5-methanesulfonyl-2-(4-methyl-pyrazol-1-yl)-phenyl]-methanone | 30% yield | FC1=C(C=CC(=C1)C(F)(F)F)N1CCN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC(=C1)C | C23H22F4N4O3S
